US07456164B2
1-methyl-4-({1-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]cyclohexyl}carbonyl)piperazine
The title compound (10 mg, 8%) was prepared using 1-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]cyclohexanecarboxylic acid and 1-methylpiperazine similarly to the procedure used for example 149. 1H NMR (400 MHz, CD3OD) δ 1.32 (m, 1H), 1.64-1.69 (m, 7H), 1.81-1.85 (m, 4H), 1.98-2.03 (m, 2H), 2.05-2.13 (m, 4H), 2.15 (s, 3H), 2.25-2.28 (m, 2H), 2.59-2.62 (m, 4H), 2.69 (t, 2H), 3.33-3.42 (m, 4H), 4.01 (t, 2H), 6.90 (d, 2H), 7.16 (d, 2H). HRMS ESI+ m/z 414.3107 [MH]+.

reactant | 1-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]cyclohexanecarboxylic acid | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCCCC1)C(=O)O | C20H29NO3
reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
product | 1-methyl-4-({1-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]cyclohexyl}carbonyl)piperazine | 10 mg, 8% | CN1CCN(CC1)C(=O)C1(CCCCC1)C1=CC=C(C=C1)OCCCN1CCCC1 | C25H39N3O2
